US06727256B1
(1-Benzyl-1H-indazol-5-yl)-(6-iodo-7-fluoro-quinazolin-4-yl)-amine hydrochloride
Prepared according to Procedure A from 1-benzyl-1H-indazol-5-ylamine and 4-chloro-6-iodo-7-fluoroquinazoline. δH (400 MHz, DMSO-d6): 11.55(s, 1H), 9.41(d, 1H), 8.8(s, 1H), 8.18(s, 1H), 8.05(d, 1H), 7.78(d, 1H), 7.69(d, 1H), 7.61(m, 1H), 7.29(m, 2H), 7.23(m, 3H), 5.67(s, 2H). ESI-MS m/z 496(M+1).

reactant | 1-benzyl-1H-indazol-5-ylamine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)N | C14H13N3
reactant | 4-chloro-6-iodo-7-fluoroquinazoline | ClC1=NC=NC2=CC(=C(C=C12)I)F | C8H3ClFIN2
product | (1-Benzyl-1H-indazol-5-yl)-(6-iodo-7-fluoro-quinazolin-4-yl)-amine hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=C(C=C12)I)F | InChI=1S/C22H15FIN5.ClH/c23-18-10-20-17(9-19(18)24)22(26-13-25-20)28-16-6-7-21-15(8-16)11-27-29(21)12-14-4-2-1-3-5-14;/h1-11,13H,12H2,(H,25,26,28);1H
